US04546102
1-(6,7-Dimethoxyquinazol-4-yl)-semicarbazide
2.2 g of 6,7-dimethoxy-4-chloro-quinazoline were dissolved in 50 ml of absolute dimethylformamide, 2.2 g of semicarbazide hydrochloride and 5 g of anhydrous potash were added thereto while stirring. The mixture was stirred for 5 hours at 50° C., and the precipitate formed thereby was suction-filtered off, stirred with water, and then recrystallized from dimethylformamide. The crude product was obtained with a 30% yield; m.p. 247°-249° C.

reactant | 6,7-dimethoxy-4-chloro-quinazoline | 2.2 g | COC=1C=C2C(=NC=NC2=CC1OC)Cl | C10H9ClN2O2
reactant | semicarbazide hydrochloride | 2.2 g | Cl.NNC(=O)N
reactant | potash | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(6,7-Dimethoxyquinazol-4-yl)-semicarbazide | 30% yield | COC=1C=C2C(=NC=NC2=CC1OC)NNC(=O)N | C11H13N5O3
